US09120749B2
{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure D, {6-bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone (30 mg, 0.068 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (30 mg, 0.106 mmol) to afford the desired product (21.5 mg, 61%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 8.76 (s, 1H), 8.29 (s, 1H), 8.07-7.99 (m, 2H), 7.31 (d, J=2.0 Hz, 1H), 7.24 (d, J=2.0 Hz, 1H), 3.99 (s, 3H), 3.54 (d, J=12.4 Hz, 2H), 3.22 (t, J=11.7 Hz, 2H), 2.82 (s, 4H), 2.71 (d, J=6.5 Hz, 2H), 2.60-2.51 (m, 1H), 2.06-1.81 (m, 7H), 1.71-1.59 (m, 2H), 1.36-1.27 (m, 2H), 1.27-1.19 (m, 2H); ESI MS m/z 520 [C30H34ClN3O3+H]+; HPLC 98.6% (AUC), tR=10.70 min.

reactant | {6-bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 0.068 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN1CCCC1 | C23H28BrN3O
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.106 mmol, 30 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 21.5 mg, 61% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN1CCCC1 | C30H34ClN3O3
